US04393217
As for Example 1, 2-cyano-2',5'-difluoroacetanilide, colorless crystals, m.p. 165°-167° C. (prepared by the procedure described in U.S. Pat. No. 3,116,312), is heated with N,N-dimethylformamide dimethylacetal to give 2-cyano-3-dimethylamino-2',5'-difluoroacrylanilide as colorless needles, m.p. 175°-176° C.

reactant | 2-cyano-2',5'-difluoroacetanilide | C(#N)CC(=O)NC1=C(C=CC(=C1)F)F | C9H6F2N2O
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 2-cyano-3-dimethylamino-2',5'-difluoroacrylanilide | C(#N)C(C(=O)NC1=C(C=CC(=C1)F)F)=CN(C)C | C12H11F2N3O
